US05169838
Preparation of 3-bromo-7-hydroxy-2-methyl-4H-1-benzopyran-4-one
2.2 ml of sodium methylate (8% of Na (w/v) in methanol) are added under an inert atmosphere to a suspension of 2.3 g (7.7.10-3 mol) of 7-acetyl-3-bromo-2-methyl-4H-1-benzopyran-4-one in 40 ml of methanol. After 30 minutes, the reaction mixture is hydrolyzed with an iced solution of hydrochloric acid. The precipitate formed is filtered off and then washed until the pH of the washings is neutral. 1.9 g (yield: 96%) of the expected product are thus obtained.

reactant | sodium methylate | 2.2 ml | C[O-].[Na+]
reactant | 7-acetyl-3-bromo-2-methyl-4H-1-benzopyran-4-one | 2.3 g | C(C)(=O)C1=CC2=C(C(C(=C(O2)C)Br)=O)C=C1 | C12H9BrO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 3-bromo-7-hydroxy-2-methyl-4H-1-benzopyran-4-one | 1.9 g, yield: 96% | BrC1=C(OC2=C(C1=O)C=CC(=C2)O)C | C10H7BrO3
